### PR TITLE
Chapter10 Exercise 05

### PR DESCRIPTION
**Pull request by archiebrowne**
Exercise 05 complete proof + documentation - not the tidiest but no sorries left. 
Status page updated.

### CODE REVIEW

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 1]
```diff
@@ -1,16 +1,25 @@
 import Mathlib.Tactic
-
+import M1FExplained.Chapter10.Exercises.Exercise04
 
 namespace Chapter10.Exercise05
 
+-- part a
+
+/- 
+Let m, n be coprime integers, and suppose that a is n integer which is divisible by both m and n.
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
Let m, n be coprime integers, and suppose that a is an integer which is divisible by both m and n. 
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 2]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
     exact h₂ 
   match hc with 
   |⟨e, he⟩ => 
+  -- e is the number such that n * e = k₁. It also is the case that (m * n) * e = a, proving our statment. 
   use e
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean:39]: `polyrith` does it from here, but the calc proof is fine: I just thought I'd let you know,

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 3]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+/- 
+Note that this statment of the question as in the book is incorrect. If we restrict m and n to be 
+non-zero, then the statment is true, so that is what we will prove.
+
+To help, we first define two helper lemmas as the solution is longwinded.
+-/
+
+-- helper_1 is a simple inequality involving absolute values.
+
+lemma helper_1 (m n M : ℤ) (hM : 1 < abs M) (hM' : M ∣ m * n) (hm : m ≠ 0) (hn : n ≠ 0) : abs (m * n / M)  < abs (m * n) := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
lemma helper_1 (m n M : ℤ) (hM : 1 < abs M) (hM' : M ∣ m * n) (hm : m ≠ 0) (hn : n ≠ 0) : 
    abs (m * n / M)  < abs (m * n) := by
```
Try and avoid lines with > 100 characters. Do you have a thin grey line in your VS Code? That's the boundary.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 4]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+match hM' with
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]: All the proof should be indented two characters.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 5]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+
+-- helper_1 is a simple inequality involving absolute values.
+
+lemma helper_1 (m n M : ℤ) (hM : 1 < abs M) (hM' : M ∣ m * n) (hm : m ≠ 0) (hn : n ≠ 0) : abs (m * n / M)  < abs (m * n) := by
+match hM' with 
+|⟨k, hk⟩ => 
+have hkn0 : 0 < abs k := by {
+  rw [abs_pos]
+  intro h
+  rw [h] at hk
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
  rintro rfl
```
`rintro rfl` is a nice trick; it means "*define* k to be 0" as opposed to "let h be a proof that k is 0". It means that you don't have to do the rewrite because all `k`s turn into 0s automatically.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 6]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  simp at hk
+  tauto
+}
+rw [hk, abs_mul, Int.mul_ediv_cancel_left]
+·calc
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
· calc
```
and similarly three lines later

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 7]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+ contradiction
+
+/- 
+helper_2 converts `Nat.not_dvd_of_pos_of_lt` to the integer case, casting to absolute values.
+It says that an integer n cannot divide any non-zero integer m which is smaller in magnitude.
+-/
+
+lemma helper_2 (m n : ℤ) (h1 : 0 < abs m) (h2 : abs m < abs n) : ¬ n ∣ m := by 
+  have h1' : 0 < Int.natAbs m := by {
+    rw [@Int.natAbs_pos]
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    rw [Int.natAbs_pos]
```
Don't use `@`s unless absolutely necessary. Similarly four lines down.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 8]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+    exact Iff.mp abs_pos h1
+  }
+  have h2' : Int.natAbs m < Int.natAbs n := by {
+    rw [@Int.natAbs_lt_iff_sq_lt]
+    exact Iff.mpr sq_lt_sq h2
+  }
+  have := @Nat.not_dvd_of_pos_of_lt _ _ h1' h2'
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
  have := Nat.not_dvd_of_pos_of_lt h1' h2'
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 9]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  simp at this
+  assumption
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
  simpa
```
`simpa` is "simp at this; simp; exact this". It's a common idiom.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 10]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+/- 
+helper_2 converts `Nat.not_dvd_of_pos_of_lt` to the integer case, casting to absolute values.
+It says that an integer n cannot divide any non-zero integer m which is smaller in magnitude.
+-/
+
+lemma helper_2 (m n : ℤ) (h1 : 0 < abs m) (h2 : abs m < abs n) : ¬ n ∣ m := by 
+  have h1' : 0 < Int.natAbs m := by {
+    rw [@Int.natAbs_pos]
+    exact Iff.mp abs_pos h1
+  }
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]: The previous four lines should probably be
```
  have h1' : 0 < Int.natAbs m
  · rw [Int.natAbs_pos]
    exact Iff.mp abs_pos h1
```
I think that's more idiomatic.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 11]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  have h2' : Int.natAbs m < Int.natAbs n := by {
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]: Similarly here, you can drop the `:= by {` and just use a `\.` dot.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 12]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+     have : 0 < M := by {
+      rw [@Int.ofNat_pos]
+      exact Int.gcd_pos_of_ne_zero_left n hm
+     }
+     contradiction
+   }
+   -- Apply both helper_1 and helper_2 to finish the proof.
+   have h2' : abs (m * n / M)  < abs (m * n) := by exact helper_1 m n M h1M hMmn hm hn
+   exact helper_2 (m * n / M) (m * n) h1' h2'
+
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean:145]: Try `#lint` after this proof to learn that you can make it four lines shorter.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 13]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  let M : ℤ := Int.gcd m n
+  /- Since m / M and n / M are both integers, our choice of a has both factors m and n. However m * n > a,
+  so cannot possibly divide it. -/
+  use (m * n / M)
+  apply And.intro
+  -- First prove that m ∣ a.
+  ·rw [show m * n / M = m * (n / M) by {
+    exact Int.mul_ediv_assoc m (show M ∣ n by exact Int.gcd_dvd_right m n)
+  }]
+   have : m ∣ m := by use 1; norm_num
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
   have : m ∣ m := Int.dvd_refl m
```
This fact already has a name (and indeed you can guess what the name is if you understand the naming convention), so you probably don't need to make a new proof of it using `have`; just use `Int.dvd_refl m` whenever you need it.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 14]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+   exact dvd_mul_of_dvd_left this (n / M)
+  apply And.intro
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]: I think `constructor` is encouraged here.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 15]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+
+lemma part_b (m n : ℤ) (hm : m ≠ 0) (hn : n ≠ 0) (h2 : Int.gcd m n ≠ 1) : ∃ (a : ℤ), (m ∣ a) ∧ (n ∣ a) ∧ (¬(m * n) ∣ a) := by 
+  let M : ℤ := Int.gcd m n
+  /- Since m / M and n / M are both integers, our choice of a has both factors m and n. However m * n > a,
+  so cannot possibly divide it. -/
+  use (m * n / M)
+  apply And.intro
+  -- First prove that m ∣ a.
+  ·rw [show m * n / M = m * (n / M) by {
+    exact Int.mul_ediv_assoc m (show M ∣ n by exact Int.gcd_dvd_right m n)
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]: `by exact` -> `from` (no need to fire up tactic mode at all)

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 16]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  -- Next, prove n ∣ a.
+  ·rw [show m * n / M = n * (m / M) by {
+    rw [←mul_comm n m]
+    exact Int.mul_ediv_assoc n (show M ∣ m by exact Int.gcd_dvd_left m n)
+  }]
+   have : n ∣ n := by use 1; norm_num
+   exact dvd_mul_of_dvd_left this (m / M)
+  have : M ∣ m := by exact Int.gcd_dvd_left m n
+  have hMmn : M ∣ m * n := by {
+    match this with
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    match Int.gcd_dvd_left m n with
```
You don't need to make `this` two lines up.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 17]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+    |⟨k, hk⟩ => 
+    use k * n
+    rw [hk]
+    rw [mul_assoc]}
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    rw [hk, mul_assoc] }
```
May as well do all the rewrites in one go, it saves firing up the `rw` machinery more than once.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 18]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+  ·have h1' : 0 < abs (m * n / M) := by {
+    rw [abs_pos]
+    intro h
+    have := Int.eq_zero_of_ediv_eq_zero hMmn h
+    rw [mul_eq_zero] at this
+    tauto
+  }
+   have h1M : 1 < abs M := by {
+    apply by_contradiction
+    intro h
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    by_contra h
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 19]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+    push_neg at h
+    have := @Int.abs_le_one_iff M
+    rw [this] at h
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    rw [Int.abs_le_one_iff] at h
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 20]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+    apply Or.elim h
+    ·intro hM0
+     simp at hM0
+     rw [Int.gcd_eq_zero_iff] at hM0
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
     simp [Int.gcd_eq_zero_iff] at hM0
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 21]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
+     tauto
+    ·intro
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean]:
```suggestion
    · intro
```

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 22]
```diff
@@ -26,31 +35,150 @@ lemma part_a (m n a : ℤ) (hmn : Int.gcd m n = 1) (hm : m ∣ a) (hn : n ∣ a)
...
     calc 
       1 = 1 * 1 := by norm_num
       _ = (x * a + m * b) * (y * c + m * d) := by nth_rewrite 1 [hxm]; rw [hym]
       _ = x * a * y * c + x * a * m * d + m * b * y * c + m * b * m * d := by ring
-      _ = x * y * a * c + (x * a * d + b * y * c + m * b * d) * m := by ring
-  /- Need lemma saying that if ∃ s, t : a * s * b * t = 1, then gcd(a, b) = 1, this is Q4C -/
-  sorry
-
-
+      _ = a * c * x * y  + (x * a * d + b * y * c + m * b * d) * m := by ring
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean:164]: You don't need two consecutive `by ring`s in the calculation; just delete the one above this one.

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot! I gave a thorough style review.

**Comment by archiebrowne** [comment]
thanks for the review - changes commited

**Review by kbuzzard — APPROVED** [review]
Thanks!
